US04110470
22.1 g. of α-ethyl-3,5-di-iodo thyronine are dissolved in 130 cc. of a 33% solution of ethylamine in water and 86.5 cc. of a 1.85 N solution of potassium iodide and iodine are added drop by drop to the above described solution while stirring. Stirring is continued for one more hour and 16% hydrochloric acid is added in an amount sufficient to adjust the pH value to a pH of 5.0. The precipitate is filtered off, washed with water, and dissolved in 250 cc. of ethanol with the addition of 100 cc. of 2 N sodium hydroxide solution. The solution is purified by means of charcoal and is acidified with 2 N hydrochloric acid to a pH of 6.0. α-Ethyl thyroxine, melting at 236°-238° C. is obtained in a yield of 60% of the theoretical yield.

reactant | α-ethyl-3,5-di-iodo thyronine | C(C)[C@](N)(CC1=CC(=C(C(=C1)I)OC1=CC=C(C=C1)O)I)C(=O)O | C17H17I2NO4
reactant | ethylamine | C(C)N | C2H7N
reactant | potassium iodide | [I-].[K+]
reactant | iodine | II | I2
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | α-Ethyl thyroxine | yield of 60% | C(C)N[C@@H](CC1=CC(I)=C(C(I)=C1)OC1=CC(I)=C(C(I)=C1)O)C(=O)O | C17H15I4NO4
